US07622583B2
4-Chloro-N-{5-chloro-2-[hydroxy-(2-methyl-pyridin-4-yl)-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl benzenesulfonamide
To a stirred solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (494 mg, 1.0 mmol) in anhydrous THF (10 mL) was added 2 M isopropylmagnesiumchloride in THF (1.20 mL, 2.4 mmol) at −40° C. After 5 minutes dry ice-acetone bath was replaced with a ice water bath and stirred at 0° C. for 1 h. Solid 2-methyl-pyridine-4-carbaldehyde (327 mg, 2.7 mmol) was added in one portion and the progress of the reaction was followed by LCMS. The reaction mixture was warmed to room temperature and stirred overnight. It was then quenched with saturated aqueous NH4Cl (2 mL), and extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to provide the desired product which was utilized in the following step without further purification. MS m/z: 536.0 (M+H).

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1.0 mmol, 494 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesiumchloride | 2 M | C(C)(C)[Mg]Cl
reactant | 2-methyl-pyridine-4-carbaldehyde | 2.7 mmol, 327 mg | CC1=NC=CC(=C1)C=O | C7H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2.4 mmol, 1.20 mL | C1CCOC1 | C4H8O
product | 4-Chloro-N-{5-chloro-2-[hydroxy-(2-methyl-pyridin-4-yl)-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=CC(=NC=C1)C)O)C(F)(F)F | C21H18Cl2F3N3O4S
